US04840947
6-(Piperidin-4-yl)-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine hydrochloride
To a 1 L, 3-necked round bottom flask equipped with a reflux condenser, nitrogen inlet, magnetic stirring bar and addition funnel were fed 6-(1-methylpiperidin-4-yl)-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine (19.3 gm), collidine (622 gm) and dichloromethane (500 ml). The mixture was heated to a gentle reflux and alpha-chloroethyl chloroformate (19 gm) was added dropwise over a period of 30 minutes at refluxing temperature. The resultant solution was refluxed for 2 hours and thereafter cooled to about 50° C. The solution was concentrated to a solid-oil mixture and thereafter extracted with ether (about 2 L). The insolubles were filtered off and the ethereal solution was concentrated and dried on a rotary evaporator (high vacuum pump at about 80° C.) until little collidine was left. The crude product (43 gm) was identified as the bis-alpha-chloroethyl carbamate of the desired product.

reactant | 6-(1-methylpiperidin-4-yl)-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine | 19.3 gm | CN1CCC(CC1)C1NC2=C(N3C4=C1C=CC=C4CC3)C=CC=C2 | C21H25N3
reactant | collidine | 622 gm | N1=C(C=C(C=C1C)C)C | C8H11N
reactant | alpha-chloroethyl chloroformate | 19 gm | ClC(=O)OC(C)Cl | C3H4Cl2O2
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 6-(Piperidin-4-yl)-1,2,6,7-tetrahydrobenzo[b]pyrrolo[3,2,1-jk][1,4]benzodiazepine hydrochloride | Cl.N1CCC(CC1)C1NC2=C(N3C4=C1C=CC=C4CC3)C=CC=C2 | InChI=1S/C20H23N3.ClH/c1-2-7-18-17(6-1)22-19(14-8-11-21-12-9-14)16-5-3-4-15-10-13-23(18)20(15)16;/h1-7,14,19,21-22H,8-13H2;1H
